US05177095
Step A: Methyl N-(4-Hydroxybenzyl)dithiocarbamate
To a solution of 8.4 g (33 mmol) of 4-hydroxybenzylamine hydriodide [M. Tiffeneau, Bull. Soc. Chim. Fr., 9, 819 (1911)] and 10.1 ml (7.3 g, 73 mmol) of triethylamine in 32 ml of MeOH stirred under N2 at ambient temperature was added gradually a solution of 2.2 ml (2.8 g, 38 mmol) of carbon disulfide in 12 ml of MeOH. After 1 hour, the resulting solution was cooled to -10° C. and treated gradually with a solution of 2 ml (4.7 g, 33 mmol) of iodomethane in 6 ml of MeOH. The solution was then stirred at room temperature for 2 hours. Next, the solution was concentrated to small volume and partitioned between ether and 0.2N HCl. The ethereal phase was washed further with 0.2N HCl followed by saturated NaCl. The ether solution was dried (MgSO4), filtered, and concentrated to an oil, which gradually solidified, affording 5.98 g. (85%), mp 90°-91° C.; homogeneous by TLC in 2:1 hexane-EtOAc.

reactant | 4-hydroxybenzylamine hydriodide | 33 mmol, 8.4 g | I.OC1=CC=C(CN)C=C1
reactant | triethylamine | 73 mmol, 10.1 ml, 7.3 g | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 38 mmol, 2.2 ml, 2.8 g | C(=S)=S | CS2
reactant | iodomethane | 33 mmol, 2 ml, 4.7 g | IC | CH3I
solvent | MeOH | 32 ml | CO | CH4O
solvent | MeOH | 12 ml | CO | CH4O
solvent | MeOH | 6 ml | CO | CH4O
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | Methyl N-(4-Hydroxybenzyl)dithiocarbamate | OC1=CC=C(CNC(SC)=S)C=C1 | C9H11NOS2
